US07608716B2
To a suspension of 4-hydroxy-3-[1-oxo-2-(4-methylsulfonylphenyl)ethyl]-1-phenyl-1,8-naphthyridin-2 (1H)-one (101 mg, 0.23 mmol) in DMF (2.5 ml) was added hydrazine monohydrate (80%, 28 μl, 0.87 mmol, 3.8 eq.), and the mixture was treated in the same manner as in Example 16 to give 3-(4-methylsulfonylbenzyl)-5-phenyl-1H-pyrazolo[4,3-c][1,8]naphthyridin-4 (5H)-one (72 mg, 72%).

reactant | 4-hydroxy-3-[1-oxo-2-(4-methylsulfonylphenyl)ethyl]-1-phenyl-1,8-naphthyridin-2 (1H)-one | 0.23 mmol, 101 mg | OC1=C(C(N(C2=NC=CC=C12)C1=CC=CC=C1)=O)C(CC1=CC=C(C=C1)S(=O)(=O)C)=O | C23H18N2O5S
reactant | hydrazine monohydrate | 0.87 mmol, 28 μl, 3.8 eq. | O.NN
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | 3-(4-methylsulfonylbenzyl)-5-phenyl-1H-pyrazolo[4,3-c][1,8]naphthyridin-4 (5H)-one | 72 mg, 72% | CS(=O)(=O)C1=CC=C(CC2=NNC3=C2C(N(C=2N=CC=CC32)C3=CC=CC=C3)=O)C=C1 | C23H18N4O3S
